US08957214B2
N-[1-((6-chloropyridin-3-yl)methyl)pyridin-2(2H)-ylidene]acetamide (Patent Document 4, Compound 2)
Anhydrous dichloromethane (20 mL) was added to 118 mg (0.46 mmol) of 1-[(6-chloropyridin-3-yl)methyl]pyridine-2(1H)-imine hydrochloride obtained by the alternative method described in Synthesis Example 14, following which 159 μL (1.16 mmol, 116 mg) of triethylamine and 33 μL of acetyl chloride were added and the mixture was stirred at room temperature for 15 minutes. The reaction was stopped by adding water to the reaction mixture, and liquid-liquid extraction was carried out with chloroform and water. The organic phase was washed with a saturated aqueous solution of ammonium chloride, then concentrated. With the addition of hexane thereto, a solid settled out. The solid was collected by filtration and washed, then thoroughly dried, giving 21 mg of the target compound (yield, 17%).

reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | 1-[(6-chloropyridin-3-yl)methyl]pyridine-2(1H)-imine hydrochloride | 0.46 mmol, 118 mg | Cl.ClC1=CC=C(C=N1)CN1C(C=CC=C1)=N
reactant | triethylamine | 1.16 mmol, 159 μL, 116 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 33 μL | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | N-[1-((6-chloropyridin-3-yl)methyl)pyridin-2(2H)-ylidene]acetamide | 21 mg, 17% | ClC1=CC=C(C=N1)CN1C(C=CC=C1)=NC(C)=O | C13H12ClN3O
